US05861401
A solution of 2-iodobenzenesulphonyl chloride (obtained as described in J. Org. Chem. 1977, 42, 3265) (8.28 g) and 4-nitrophenol (3.81 g) in pyridine (50 ml) was heated at 100° C. for 3 hours. Volatile material was removed by evaporation and water (200 ml) was added to the residue. The mixture was extracted with ethyl acetate (2×200 ml) and the combined extracts were washed with 1M hydrochloric acid (2×200 ml) and dried (MgSO4). Solvent was removed by evaporation and the residue was recrystallised from a mixture of ethyl acetate and hexane to give 4-nitrophenyl 2-iodobenzenesulphonate (7.83 g), m.p. 131°-133° C.; mass spectrum (+ve CI): 405 (M+).

reactant | 2-iodobenzenesulphonyl chloride | 8.28 g | IC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | 4-nitrophenol | 3.81 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-nitrophenyl 2-iodobenzenesulphonate | 7.83 g | IC1=C(C=CC=C1)S(=O)(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H8INO5S
